US06191129B1
8-Amino-10-(1-amino-3-azabicyclo[3,1.0]hexan-3-yl)-9-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid (isomer A)
To a dimethyl sulfoxide (5 ml) solution of 8-amino-9,10-difluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid (200 mg, 0.68 mmol) were added 1-tert-butoxycarbonylamino-3-azabicyclo[3.1.0]hexane (Fr. 1; 270 mg, 1.36 mmol) and triethylamine (1 ml), and the mixture was heated at 100° C. for 24 hours. After evaporation of the solvent under a reduced pressure, the thus obtained residue was mixed with chloroform (50 ml), the resulting solution was washed with 10% citric acid (20 ml×2) and dried over sodium sulfate, and then the solvent was evaporated under a reduced pressure. The thus obtained residue was mixed with concentrated hydrochloric acid (5 ml) and stirred at room temperature for 5 minutes, and the mixture was washed with chloroform (30 ml×3), alkalified by adding 20% sodium hydroxide aqueous solution, then, adjusted to pH 7.2 with concentrated hydrochloric acid and extracted with chloroform (50 ml×3). The extract was dried over sodium sulfate, and the solvent was evaporated under a reduced pressure to yield 201 mg of the crude title compound. By recrystallizing this from 28% ammonia aqueous solution-ethanol, 160 mg (63%) of the title compound was obtained.

reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | 8-amino-9,10-difluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 0.68 mmol, 200 mg | NC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C(=O)O)F)F | C13H10F2N2O4
reactant | 1-tert-butoxycarbonylamino-3-azabicyclo[3.1.0]hexane | 1.36 mmol, 270 mg | C(C)(C)(C)OC(=O)NC12CNCC2C1 | C10H18N2O2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 8-Amino-10-(1-amino-3-azabicyclo[3,1.0]hexan-3-yl)-9-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 160 mg, 63% | NC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C(=O)O)N1CC3(CC3C1)N)F | C18H19FN4O4
